### PR TITLE
Ideal arithmetic and Chinese remainder theorem

### PR DESCRIPTION
**Pull request by Alizter**
This PR builds on top of #1496 and #1495.

Here is a summary of the PR:

The biggest changes are in Ideal.v which looks like it has been written from scratch:

 * We begin with various lemmas about ring elements being in an ideal
 * We define intersection ideals, sums of ideals, products of ideals
 * We define the ideal generated by a family on a ring (different but analagous to the subgroup generated in #1495)
 * We can define principal ideals (but not what it means to be principal yet)
 * We define equality of ideals, which is just a family of "if and only if"'s
 * We define subsets of ideals, i.e. a family of implications (this is our notion of "divded by" for ideals)
 * Define the colon ideal
 * Define the annihilator of an ideal
 * We define some ideal (unicode) notations. These are convenient to use and we are running out of ascii.
 * Define coprime (comaximal) ideals and properties (e.g. existence of x and y such that x + y = 1).
 * We state and prove every lemmas about ideal arithmetic I could think of / find. There are a lot!
 
Next we do some improvements and cleanup in QuotientRing.v:
 * We add a quotient notation and use previous ring notations to make statements more concise
 * We add convenient induction principles for ring quotients whose hypothesis talk about ring elements.
 * We add a quality-of-life improvement to the first isomorphism theorem 

Finally we have a new file called Algebra/Rings/ChineseRemainder.v in which we prove the chinese remainder theorem. I've spent some time documenting the proof so it is easy to read. Interestingly it uses univalence since we need to reason about equalities in the quotient ring. Since our rings are commutative, we also state and prove the version that uses products of ideals instead of intersections.

### CODE REVIEW

**Comment by Alizter** [comment]
rebased

File: theories/Algebra/Rings/ChineseRemainder.v [hunk 1]
```diff
@@ -0,0 +1,150 @@
...
+
+Section ChineseRemainderTheorem.
+
+  (** We assume [Univalence] in order to work with quotients. We also need it for [Funext] in a few places.*)
+  Context `{Univalence}
+    (** We need two coprime ideals [I] and [J] to state the theorem. We don't introduce the coprimeness assumption as of yet in order to show something slightly stronger. *)
+    {R : CRing} (I J : Ideal R).
+
+  (** We begin with the homomorphism which will show to be a surjection. Using the first isomorphism theorem for rings we can improve this to be the isomorphism we want. *)
+  (** TODO: rename *)
```
Comment (Alizter) [inline theories/Algebra/Rings/ChineseRemainder.v:22]:
```suggestion
```

File: theories/Algebra/Rings/ChineseRemainder.v [hunk 2]
```diff
@@ -0,0 +1,150 @@
...
+  Theorem chinese_remainder_prod : R / (I ⋅ J)%ideal ≅ (R / I) × (R / J).
+  Proof.
+    etransitivity.
+    { rapply rng_quotient_invar.
+      symmetry.
+      rapply ideal_intersection_is_product. }
+    rapply chinese_remainder.
+  Defined.
+
+End ChineseRemainderTheorem.
```
Comment (Alizter) [inline theories/Algebra/Rings/ChineseRemainder.v:150]:
```suggestion
End ChineseRemainderTheorem.

```

File: theories/Algebra/Rings/Ideal.v [hunk 3]
```diff
@@ -20,40 +26,153 @@ Record Ideal (R : CRing) := {
...
-  (** The zero ideal is an ideal *)
-  Global Instance isideal_trivial_subgroup
-    : IsIdeal (R:=R) trivial_subgroup.
+  Definition ideal_in_zero : I cring_zero := subgroup_unit I.
+  Definition ideal_in_plus a b : I a -> I b -> I (a + b) := subgroup_op I a b.
+  Definition ideal_in_negate a : I a -> I (- a) := subgroup_inverse I a.
+  Definition ideal_in_plus_negate a b : I a -> I b -> I (a - b)
+    := subgroup_op_inverse I a b.
+
+  Lemma ideal_in_negate' a : I (- a) -> I a.
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:49]: Shouldn't this and the next two lemmas be instances of general facts about subgroups?

File: theories/Algebra/Rings/Ideal.v [hunk 4]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+
+(** The annihilator of an ideal. *)
+Definition ideal_annihilator `{Funext} {R : CRing} (I : Ideal R) : Ideal R
+  := ideal_quotient (ideal_zero R) I.
+
+(** *** Ideal notations *)
+
+(** We declare a module for various (unicode) ideal notations. These exist in their own special case, and can be imported and used when needing to reason about ideals. *)
+
+(** TODO: reserve these properly *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:324]: Do you want to do this before merging?

File: theories/Algebra/Rings/Ideal.v [hunk 5]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+    left.
+    by apply isideal.
+  - apply sgt_in.
+    right.
+    by apply isideal.
+Defined.
+
+(** *** Ideal lemmas *)
+
+(** We use these notations in the rest of this file *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:408]: Very minor, but "these" is a bit confusing here since this comment is somewhat distant from the notation module.  Is there a reason not to define and import the notation module at the same time?

File: theories/Algebra/Rings/Ideal.v [hunk 6]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+
+  Context {R : CRing}.
+
+  (** Subset relation is antisymmetric *)
+  Lemma ideal_subset_antisymm (I J : Ideal R) : I ⊆ J -> J ⊆ I -> I ↔ J.
+  Proof.
+    intros p q x; split; by revert x.
+  Defined.
+
+  (** The zero ideal is contained by all ideals *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:422]:
```suggestion
  (** The zero ideal is contained in all ideals *)
```

File: theories/Algebra/Rings/Ideal.v [hunk 7]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+  Proof.
+    etransitivity.
+    2: rapply ideal_sum_self.
+    etransitivity.
+    2: rapply ideal_sum_subset_pres_r.
+    2: rapply ideal_product_comm.
+    apply ideal_product_intersection_sum_subset.
+  Defined.
+
+  (** If the sum of ideals is the whole ring then their product is a subset of their intersection. *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:748]:
```suggestion
  (** If the sum of ideals is the whole ring then their intersection is a subset of their product. *)
```

File: theories/Algebra/Rings/Ideal.v [hunk 8]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+      induction q as [r x | | ].
+      { destruct x.
+        cbv in p.
+        by apply p. }
+      1: apply ideal_in_zero.
+      by apply ideal_in_plus_negate.
+    Defined.
+
+    (** Ideal quotients partially cancel *)
+    Lemma ideal_quotient_susbset_left_inverse (I J : Ideal R)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:805]:
```suggestion
    Lemma ideal_quotient_subset_left_inverse (I J : Ideal R)
```
However, I'm not sure I would describe this as a "left inverse" or as "canceling", since it is an inequality rather than an equality.

File: theories/Algebra/Rings/Ideal.v [hunk 9]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+    Defined.
+
+    (** The ideal quotient of unit by I is unit *)
+    Lemma ideal_quotient_unit_top (I : Ideal R)
+      : (ideal_unit R :: I) ↔ ideal_unit R.
+    Proof.
+      cbv; split; trivial.
+    Defined.
+
+    (** The ideal quotient by a sum is an intersecton of ideal quotients *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:840]:
```suggestion
    (** The ideal quotient by a sum is an intersection of ideal quotients *)
```

File: theories/Algebra/Rings/Ideal.v [hunk 10]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+
+    (** Ideals are subsets of their ideal quotients *)
+    Lemma ideal_quotient_subset (I J : Ideal R) : I ⊆ (I :: J).
+    Proof.
+      intros x i r j.
+      rewrite rng_mult_comm.
+      by apply isideal.
+    Defined.
+
+    (** Products are subsets iff the first factor is a subset of the ideal quotient *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:787]:
```suggestion
    (** The ideal quotient is a right adjoint to the product in the monoidal lattice of ideals. *)
```

File: theories/Algebra/Rings/Ideal.v [hunk 11]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+    intros p.
+    apply ideal_sum_smallest.
+    1: apply ideal_sum_subset_l.
+    transitivity J.
+    1: exact p.
+    apply ideal_sum_subset_r.
+  Defined.
+
+  (** Products left distribute over sums *)
+  Lemma ideal_dist_l (I J K : Ideal R) : I ⋅ (J + K) ↔ I ⋅ J + I ⋅ K.
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:571]: On paper, this follows by abstract nonsense from the adjunction `ideal_quotient_subset_prod` (left adjoints preserve colimits).  I suppose we might want to avoid using the latter since it involves funext, but if we weren't worried about that, would it simplify the formalization to derive this lemma that way?

File: theories/Algebra/Rings/Ideal.v (hunk 9 above)
Comment (mikeshulman) [reply theories/Algebra/Rings/Ideal.v:840]: This should also follow formally from `ideal_quotient_subset_prod`.  Would that proof be any easier?

File: theories/Algebra/Rings/Ideal.v [hunk 12]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+          rewrite rng_mult_negate_r.
+          by apply ideal_in_plus_negate. }
+      intros x p y k z j; hnf in p.
+      rewrite <- rng_mult_assoc.
+      rewrite (rng_mult_comm y).
+      by apply p, tr, sgt_in, ipn_in.
+    Defined.
+
+    (** Ideal quotients distribute over intersections *)
+    Lemma ideal_quotient_intersection (I J K : Ideal R)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:889]: This should also follow formally from `ideal_quotient_subset_prod`.  But it's hard to imagine that proof being much shorter here.

File: theories/Algebra/Rings/Ideal.v [hunk 13]
```diff
@@ -65,7 +184,728 @@ Proof.
...
+        1: by apply p.
+        by apply q.
+      - rewrite rng_mult_zero_r.
+        apply ideal_in_zero.
+      - rewrite rng_dist_l.
+        rewrite rng_mult_negate_r.
+        by apply ideal_in_plus_negate.
+    Defined.
+
+    Lemma ideal_quotient_product (I J K : Ideal R)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Ideal.v:866]: This should also follow formally from `ideal_quotient_subset_prod` and a lemma that the product of ideals is associative.  I didn't see the latter lemma, is it missing?

File: theories/Algebra/Rings/QuotientRing.v [hunk 14]
```diff
@@ -102,58 +106,88 @@ Section QuotientRing.
...
-Definition Build_CRing' (R : AbGroup)
-  `(Mult R, One R, LeftDistribute R mult (@group_sgop R))
-  (iscomm : @IsCommutativeMonoid R mult one)
-  : CRing
-  := Build_CRing R (@group_sgop R) _ (@group_unit R) _
-       (@group_inverse R) (Build_IsRing _ _ _ _).
+Infix "/" := QuotientRing : ring_scope.
 
-(** The image of a ring homomorphism *)
-Definition rng_image {R S : CRing} (f : R $-> S) : CRing.
```
Comment (mikeshulman) [inline theories/Algebra/Rings/QuotientRing.v:114]: Did this get moved to another file?

**Review by mikeshulman — APPROVED** [review]
This looks good!  Sorry to take so long to look at it.

**Comment by mikeshulman** [comment]
i'm glad you aren't actually using the name "colon ideal" -- in general I don't like names derived from notations.  Unfortunately, the term "quotient ideal" isn't much better in my mind: a quotient is a colimit, but this is more like an internal-hom.  I would have been more inclined to call it a [residual ideal](https://en.wikipedia.org/wiki/Residuated_lattice) -- do you think we could get away with using that terminology?

File: theories/Algebra/Rings/Ideal.v (hunk 10 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v:787]: Ah good observation, hadn't noticed that!

File: theories/Algebra/Rings/Ideal.v (hunk 11 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v:571]: I think it would be worth deriving the result this way. Since we don't quite have the machinery of adjunctions ready, I will make a note here.

File: theories/Algebra/Rings/QuotientRing.v (hunk 14 above)
Comment (Alizter) [reply theories/Algebra/Rings/QuotientRing.v:114]: Yes, it was moved to CRing.v

File: theories/Algebra/Rings/Ideal.v (hunk 3 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v]: Yes, good catch. I have proven them for the predicate `issubgroup` and derived the versions for `subgroup` and `ideal` later on. The naming convention is now consistently `subgroup_in_X`.

File: theories/Algebra/Rings/Ideal.v (hunk 4 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v:303]: Done.

File: theories/Algebra/Rings/Ideal.v (hunk 5 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v]: This was to avoid conflict with the coprime lemmas. I've reordered things and imported immediately now.

File: theories/Algebra/Rings/Ideal.v (hunk 8 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v]: OK, I've renamed it `ideal_quotient_product_left`.

File: theories/Algebra/Rings/Ideal.v (hunk 13 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v:846]: I didn't prove associativity because it looked hard and I didn't need it. 0:-)

Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v:846]: I've added a TODO in the file in case anybody wants to try.

File: theories/Algebra/Rings/Ideal.v (hunk 9 above)
Comment (Alizter) [reply theories/Algebra/Rings/Ideal.v]: I don't quite see how this follows.

File: theories/Algebra/Rings/Ideal.v (hunk 13 above)
Comment (mikeshulman) [reply theories/Algebra/Rings/Ideal.v:846]: Well, if this is easier to prove directly than associativity, we should conversely be able to deduce associativity from it.

File: theories/Algebra/Rings/Ideal.v (hunk 9 above)
Comment (mikeshulman) [reply theories/Algebra/Rings/Ideal.v]: By adjunction again: `(I :: -)` is a contravariant left adjoint, so it sends coproducts to products.

**Comment by Alizter** [comment]
Regarding the terminology: I didn't know about residual lattices and I like the idea of calling these residual ideals. It seems to be used in constructive algebra. However I am still weary about renaming it. For a lot of algebra, my standard reference for is Dummit & Foote, there they call it a quotient ideal. In algebraic geometry, the term residue gets thrown in for a different reason, which might generate confusion in the future.

At the end of the day, this can be considered a bit of a fringe concept anyhow that I haven't seen much used outside of ring theory. Also there is a similar concept of a fractional ideal generalizes a lot of things here, but at the level of modules.

Perhaps leaving a comment like: `Quotient as in division not colimit` might be appropriate? The reason being in Z we have `(6) : (3) = (2)`.

**Comment by Alizter** [comment]
@mikeshulman Is this good to merge now?

I think it would definitely be interesting to investigate the (closed) monoidal lattice of ideals once we have the appropriate categorical machinery in place.

**Comment by mikeshulman** [comment]
Sure, with a comment about "quotient as in division" I'm fine.

File: theories/Algebra/Rings/Ideal.v [hunk 15]
```diff
@@ -65,7 +164,728 @@ Proof.
...
+  exact (q o p).
+Defined.
+
+Coercion ideal_eq_subset {R : CRing} {I J : Ideal R} : ideal_eq I J -> ideal_subset I J.
+Proof.
+  intros f x; apply f.
+Defined.
+
+(** Quotient (a.k.a colon) ideal *)
+(** Unfortunately, due to truncatedness constraints, we need to assume funext. *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Ideal.v:274]:
```suggestion
(** Quotient (a.k.a colon) ideal *)
(** Note that this is quotient as in division rather than a colimit. In fact, the quotient ideal is more like an internal hom as we will see later. *)
(** Unfortunately, due to truncatedness constraints, we need to assume funext. *)
```
